US09145413B2
a. 2-(5-Fluoropyridin-2-yl)-N,N-di(prop-2-en-1-yl)hydrazinecarboxamide (Intermediate 101a)
To a solution of (5-fluoro-pyridin-2-yl)-hydrazine (for reference procedure see WO 2010/022076, which is incorporated herein by reference in its entirety; 2.54 g, 20.0 mmol) in DCM (150 mL) and DIPEA (3.87 g, 30.0 mmol) was added N,N-di-2-propen-1-yl-carbamic chloride (for reference procedure see for example Tetrahedron 1996, 52, 13739-13750, which is incorporated herein by reference in its entirety; 4.13 g, 26.0 mmol) and the reaction mixture was stirred at RT for 18 h. The reaction mixture was diluted with MeOH (50 mL) and loaded onto an SCX cartridge. The cartridge was washed with MeOH and the product eluted with 2M NH3 in MeOH. The compound containing fractions were concentrated in vacuo and the resulting residue was purified by FCC on silica, using a gradient of 0-6% [2M NH3 in MeOH] in DCM, to afford the title compound (2.30 g, 46%) as a yellow solid. LCMS (Method 1): Rt 2.26 min, m/z 251 [MH+].

reactant | (5-fluoro-pyridin-2-yl)-hydrazine | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | DIPEA | 30.0 mmol, 3.87 g | CCN(C(C)C)C(C)C | C8H19N
reactant | N,N-di-2-propen-1-yl-carbamic chloride | C(C=C)N(C(=O)Cl)CC=C | C7H10ClNO
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 50 mL | CO | CH4O
product | 2-(5-Fluoropyridin-2-yl)-N,N-di(prop-2-en-1-yl)hydrazinecarboxamide | 2.30 g, 46% | FC=1C=CC(=NC1)NNC(=O)N(CC=C)CC=C | C12H15FN4O
